US06887884B2
6-ETHYL-5-OXA-7,13-DIAZATETRACYCLO[9.3.1.02,10.04,8]PENTADECA-2(10),3,6,8-TETRAENE HYDROCHLORIDE
2,2,2-Trifluoro-1-(4-hydroxy-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone and isobutyryl chloride were converted to the title compound following the procedures described in Example 30 and Goldstein, S. W.: Dambek, P J J. Het. Chem. 1990, 27, 335. 1H NMR (400 MHz, CD3OD) δ 7.64 (s, 1H), 7.62 (s, 1H), 3.48 (d, J=2.5 Hz, 2H), 3.41 (d, J=12.0 Hz, 2H), 3.20 (2H), 3.01 (q, J=7.5 Hz, 2H), 2.45 (m, 1H), 2.17 (d, J=11.5 Hz, 1H), 1.42 (t, J=7.5 Hz, 3H). APCl MS m/e 229.2 [(M+1)+].

reactant | 2,2,2-Trifluoro-1-(4-hydroxy-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone | FC(C(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)O)N)(F)F | C13H13F3N2O2
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 6-ETHYL-5-OXA-7,13-DIAZATETRACYCLO[9.3.1.02,10.04,8]PENTADECA-2(10),3,6,8-TETRAENE HYDROCHLORIDE | Cl.C(C)C=1OC2=CC=3C4CNCC(C3C=C2N1)C4 | InChI=1S/C14H16N2O.ClH/c1-2-14-16-12-4-10-8-3-9(7-15-6-8)11(10)5-13(12)17-14;/h4-5,8-9,15H,2-3,6-7H2,1H3;1H
